US07723368B2
Step 2) 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[(dimethylamino)-methyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one
A small vial (10 ml) was charged with 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde (69 mg, 192 μmol) and 1,2-dichloroethane (DCE, 1 ml). To this was added a 2M solution of dimethylamine in THF (1 ml). After stirring overnight at room temperature sodium triacetoxyborohydride (58 mg, 270 μmol) was added followed by 1 drop of glacial acetic acid (˜12 mg), then after another 20 hours 1N sodium hydroxide (1 ml) was added and the mixture extracted with diethyl ether. The ethereal layer was concentrated by rotary evaporation, diluted with methanol and re-concentrated (repeated three times). Finally the oily residue was redissolved in diethylether/hexanes and concentrated, twice then placed under vacuum to give a white foam 32 mg (43%) 1H NMR (400 MHz, DMSO-d6) δ ppm 2.04 (s, 6H) 2.93 (s, 3H) 3.26 (s, 2H, partially obscured by solvent) 6.62 (br. s., 4H) 7.04-7.09 (m, 3H) 7.12 (t, J=74.18 Hz 1H) 7.18 (t, J=7.6 Hz, 1H) 7.27 (d, J=7.9 Hz, 1H) 7.35 (s, 1H) 7.40 (d, J=8.8 Hz, 2H); MS (APPI) m/z 389 [M+H]+

reactant | 3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-benzaldehyde | 192 μmol, 69 mg | NC=1N(C(C(N1)(C1=CC=C(C=C1)OC(F)F)C=1C=C(C=O)C=CC1)=O)C | C18H15F2N3O3
reactant | dimethylamine | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 270 μmol, 58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | acetic acid | 1 drop, ˜12 mg | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[(dimethylamino)-methyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one | 32 mg, 43% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CN(C)C)C1=CC=C(C=C1)OC(F)F | C20H22F2N4O2
